US04127720
2. 1-Amino-4-ethylisoquinoline
A stirred mixture of (±)-1-amino-4-ethyl-3,4-dihydroisoquinoline (6.83 g.) and 10% palladium on carbon (1.5 g.) in p-cymene (80 ml.) was refluxed for 4 hours. The mixture was filtered and the filtrate reduced to dryness in vacuo to leave an oil which when crystallized successively from Skellysolve B and cyclohexane gave 1.84 g. (27% yield) of the product, m.p. 84°-85°.

reactant | (±)-1-amino-4-ethyl-3,4-dihydroisoquinoline | 6.83 g | NC1=NCC(C2=CC=CC=C12)CC | C11H14N2
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
solvent | p-cymene | 80 ml | CC=1C=CC(=CC1)C(C)C | C10H14
product | 1-Amino-4-ethylisoquinoline | 27% yield | NC1=NC=C(C2=CC=CC=C12)CC | C11H12N2
